US08895313B2
3-Fluoro-4-methoxy-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide
Prepared as described in the Amide Coupling section using 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline (0.30 g, 1.34 mmol) and 3-fluoro-4-methoxybenzoyl chloride (0.25 g, 1.34 mmol) in dry pyridine (14 ml) to give the title compound (0.357 g, 71%) as small, colourless needles after work-up, flash chromatography (DCM/MeOH 18:1) and recrystallisation from 1,4-dioxane.

reactant | 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline | 1.34 mmol, 0.30 g | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(N)C=C2 | C14H13N3
reactant | 3-fluoro-4-methoxybenzoyl chloride | 1.34 mmol, 0.25 g | FC=1C=C(C(=O)Cl)C=CC1OC | C8H6ClFO2
solvent | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
product | 3-Fluoro-4-methoxy-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide | 0.357 g, 71% | FC=1C=C(C(=O)NC2=CC=C(C=C2)C=2N=C3N(C=C(C=C3)C)C2)C=CC1OC | C22H18FN3O2
